US07049444B2
3-Allyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one
Ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropanecarboxylate (Preparation 5, 1 g, 3.36 mmol) in allylamine (1.15 g, 20.1 mmol) was heated in a sealed tube at 150° C. for 16 h. After cooling the reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane and washed with saturated aqueous sodium hydrogen carbonate solution. The organic extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product as a yellow oil (0.92 g, 100%).

reactant | Ethyl 3-(chloromethyl)-2-methyl-2-(3-nitrophenyl)cyclopropanecarboxylate | 3.36 mmol, 1 g | ClCC1C(C1C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])C | C14H16ClNO4
reactant | allylamine | 20.1 mmol, 1.15 g | C(C=C)N | C3H7N
product | 3-Allyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 0.92 g, 100% | C(C=C)N1C(C2C(C2C1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C15H16N2O3
